US09233982B2
Step 6: 3-(2′-amino-1′-methyl-5′-oxo-1′,5′,6,7-tetrahydro-5H-spiro[benzo[b]thiophene-4,4′-imidazole]-2-yl)benzonitrile
2′-amino-2-bromo-1′-methyl-6,7-dihydro-5H-spiro[benzo[b]thiophene-4,4′-imidazol]-5′(1′H)-one (0.127 g, 0.4 mmol), 3-cyanophenyl boronic acid (59 mg, 0.4 mmol) and Pd(dppf)Cl2 (33 mg, 0.04 mmol), were suspended in DMF (1.5 mL). Cs2CO3 (0.35 mL, 3.7 M aq. solution, 1.29 mmol) was added and the solution was degassed under a stream of nitrogen for 10 min. The mixture was heated at 90° C. for 2 hr. The reaction was cooled and solvent was removed in vacuo. The crude residue was purified using preparative HPLC to give the title compound as off-white solid (14 mg, 11%). 1H NMR δ (ppm)(DMSO-d6): 8.11 (1H, s), 7.86 (1H, d, J=8.18 Hz), 7.71 (1H, d, J=7.72 Hz), 7.57 (1H, t, J=7.85 Hz), 7.14 (1H, s), 6.41 (2H, br s), 3.02 (3H, s), 2.84-2.76 (2H, m), 2.11 (1H, d, J=13.56 Hz), 1.91 (2H, s), 1.70 (1H, s). HPLC (Method c) Rt 9.2 (min) m/z 337 (MH+).

reactant | 2′-amino-2-bromo-1′-methyl-6,7-dihydro-5H-spiro[benzo[b]thiophene-4,4′-imidazol]-5′(1′H)-one | 0.4 mmol, 0.127 g | NC=1N(C(C2(N1)CCCC=1SC(=CC12)Br)=O)C | C11H12BrN3OS
reactant | 3-cyanophenyl boronic acid | 0.4 mmol, 59 mg | C(#N)C=1C=C(C=CC1)B(O)O | C7H6BNO2
reactant | Cs2CO3 | 1.29 mmol, 3.7 M, 0.35 mL | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
catalyst | Pd(dppf)Cl2 | 0.04 mmol, 33 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 3-(2′-amino-1′-methyl-5′-oxo-1′,5′,6,7-tetrahydro-5H-spiro[benzo[b]thiophene-4,4′-imidazole]-2-yl)benzonitrile | 14 mg, 11% | NC=1N(C(C2(N1)CCCC=1SC(=CC12)C=1C=C(C#N)C=CC1)=O)C | C18H16N4OS
